US05134147
2-(Chloromethyl)benzofuran
A three-necked flask is charged with 33.2 g of 2-benzofuranylmethanol dissolved in 450 ml of anhydrous chloroform, 48.8 ml of thionyl chloride are then introduced dropwise and the temperature is raised gently to reflux and maintained for 3 hours 30 minutes. The reaction medium is then cooled and poured into 1 1 of water, and is thereafter diluted with 500 ml of dichloromethane. After settling has taken place, the organic phase is washed to neutrality and dried over anhydrous magnesium sulfate, the solvent is evaporated off and the residue is distilled under vacuum to obtain the expected compound.

reactant | 2-benzofuranylmethanol | 33.2 g | O1C(=CC2=C1C=CC=C2)CO | C9H8O2
reactant | thionyl chloride | 48.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
solvent | chloroform | 450 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 2-(Chloromethyl)benzofuran | Yield: 80% | ClCC=1OC2=C(C1)C=CC=C2 | C9H7ClO
